US06414144B1
B. (2S)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl]Amino}-3-Hydroxypropanoic Acid
Following the procedure of method 1D, methyl (2S)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]-3-hydroxypropanoate (8.9 mmol, 2.7 g) was hydrolyzed to the acid using 1 M aqueous lithium hydroxide (40 mL) in THF (40 mL) to yield a red oil (1.5 mmol, 430 mg, 17%).

reactant | methyl (2S)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]-3-hydroxypropanoate | 8.9 mmol, 2.7 g | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)OC)CO | C16H20N2O4
reactant | lithium hydroxide | 1 M, 40 mL | [OH-].[Li+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2S)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl]Amino}-3-Hydroxypropanoic Acid | 1.5 mmol, 430 mg, 17% | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)O)CO | C15H18N2O4
